US04424166
A mixture of 17.0 g (0.1 mole) of 3-formyl-2,2-dimethyl-cyclopropane-1-carboxylic acid ethyl ester, 16.6 g (0.1 mole) of triethyl phosphite and 18.5 g (0.1 mole) of sodium trichloroacetate in 100 ml of diglyme was heated to 150° C. under argon for 6 hours. The reaction mixture was then poured into water. Extraction with 2 portions of 100 ml each of methylene chloride followed. The combined methylene chloride extracts were dried over sodium sulphate. 3-(2,2-Dichlorovinyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid ethyl ester was obtained as a crude product in a yield of 73% of theory.

reactant | 3-formyl-2,2-dimethyl-cyclopropane-1-carboxylic acid ethyl ester | 0.1 mole, 17.0 g | C(C)OC(=O)C1C(C1C=O)(C)C | C9H14O3
reactant | triethyl phosphite | 0.1 mole, 16.6 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | sodium trichloroacetate | 0.1 mole, 18.5 g | ClC(C(=O)[O-])(Cl)Cl.[Na+]
reactant | water | O | H2O
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
product | 3-(2,2-Dichlorovinyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid ethyl ester | yield of 73% | C(C)OC(=O)C1C(C1C=C(Cl)Cl)(C)C | C10H14Cl2O2
